Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year-old right-handed female with HTN, 
HLD,
biliary dyskinesia who presents with confusion that began
sometime between 10:45 AM and 2:00 ___.

Per her husband, she was in her usual state at 10:45 AM when he
left for golf. Prior to him leaving, she discussed her upcoming
surgery based on her doctor's visit yesterday.

At ~2PM, her friend called to inquire about yesterday's doctor's
appointment. ___ said she "didn't know anything about that" 
and
said that she hadn't seen a doctor recently. This worried her
friend who came over and confirmed that ___ memory was 
"off."
This prompted her friend to call ___ husband and daughter. 

Family notes that ___ cannot remember things from yesterday
(especially the doctor's appointment where she was told she 
needs
her gallbladder removed, surgery scheduled for the end of
___ or today. She does not remember talking to her friend,
her friend coming over, or the ambulance coming. However, they
have been doing frequent cueing to reorient her, so she is not
asking these questions as frequently now as she had been doing
earlier today. 

She also was unable to tell her sister the name of the 
president,
but she seems to have intact memory to all distant memories. 

She has not been sick recently or had any fevers. As mentioned,
she has been having significant abdominal pain, and was recently
diagnosed with biliary dyskinesia. 

 
Past Medical History:
YPERCHOLESTEROLEMIA                                            

CORONARY ARTERY DISEASE                                         

HYPERTENSION                                                    

MAJOR DEPRESSIVE DISORDER                                       

BILIARY DYSKINESIA                                              

H/O BREAST CANCER                                               

 
Social History:
___
Family History:
Father with strokes
 
Physical Exam:
General: Awake, cooperative, NAD except that she becomes tearful 
frequently when she is unable to answer questions.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, full ROM
Pulmonary: breathing comfortably on RA
Cardiac: warm and well-perfused with brisk capillary refill
Abdomen: ND
Extremities: No C/C/E bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert. Oriented to self, location, and date.     
Digit span is 5. On CVLT, able to recall ___ words on immediate 
recall.  Improved with short-delay recall and short-delayed cue 
recall.  Three words three shapes test notable for impaired 
verbal memory but improved from prior days.  Language is 
fluentt. Normal prosody.  patient had two errors on repition.  
There were no paraphasic errors. Pt was able to name both high 
and low frequency objects.  Able to read without difficulty. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands as well as cross-body commands. There was 
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch and temperature.
VII: No facial droop, facial musculature symmetric at rest and 
upon activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt  Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5-     5   5-   ___  ___    5  5     5     5   5
R  4+    5   4+   ___-  ___    5  5     5     5   5

-Sensory: No deficits to light touch

-DTRs:
  Bi ___ Pat  Ach
L  2   2    2   1
R  2   2    2   1

Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.
 
Pertinent Results:
___ 03:50PM   GLUCOSE-109* UREA N-18 CREAT-0.9 SODIUM-144 
POTASSIUM-3.5 CHLORIDE-99 TOTAL CO2-27 ANION GAP-18
___ 03:50PM   estGFR-Using this
___ 03:50PM   CALCIUM-10.5* PHOSPHATE-3.5 MAGNESIUM-1.8
___ 03:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:50PM   WBC-8.2 RBC-5.18 HGB-14.2 HCT-43.8 MCV-85 
MCH-27.4 MCHC-32.4 RDW-15.8* RDWSD-48.7*
___ 03:50PM   NEUTS-76.6* LYMPHS-14.7* MONOS-6.6 EOS-1.0 
BASOS-0.5 IM ___ AbsNeut-6.26* AbsLymp-1.20 AbsMono-0.54 
AbsEos-0.08 AbsBaso-0.04
___ 03:50PM   PLT COUNT-259

MRI Brain: 
IMPRESSION:
 
 
1. Unchanged few punctate foci of acute to subacute infarct 
involving the
bilateral hippocampi.  There is no new focus of infarct or 
evidence of
intracranial hemorrhage.
2. Moderate white matter chronic small vessel ischemic changes.
3. No evidence of hippocampal atrophy seen.

CTA Head and Neck:
IMPRESSION:
 
 
1. There is no evidence of no evidence of hemorrhage, edema, or 
mass. The foci
of abnormality on the prior MR are not well visualized on CT.
2. The vessels of the circle of ___ and their principal 
intracranial
branches appear normal without stenosis, occlusion, or aneurysm 
formation.
3. The carotid and vertebral arteries are patent from their 
origin and their
major branches appear normal with no evidence of stenosis or 
occlusion.
 
Echo:The left atrial volume index is moderately increased. No 
atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with maneuvers. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF = 65%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic arch is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 

 
Brief Hospital Course:
Mrs. ___ is a ___ woman with HTN, HLD, h/o major 
depression, recently diagnosed with biliary dyskinesia (awaiting 
cholecystectomy at the end of the month), and breast cancer s/p 
lumpectomy who presented with acute onset anterograde amnesia. 
She also had notable difficulties with verbal memory encoding 
and retrieval. Subsequent evaluations showed improvement in her 
exam. 

As result, she had a CT scan which was unremarkable. MRI was 
obtained and showed punctate areas of diffusion restriction in 
bilateral hippocampi. Although these findings can be seen in 
Transient Global Amneisa, we initiated broad work up for other 
etiologies including stroke and seizure. CTA Head and Neck was 
largely unremarkable. Echo showed moderately increased left 
atrial volume index; there was no atrial thrombus. Telemetry did 
not reveal any arrhythmia. We will also arrange for ___ 
___ monitor. Stroke risk factor labs were notable for mildly 
elevated LDL of 92. Hemoglobin A1C and TSH were within normal 
limits. ESR and CRP were normal. EEG did not show seizures or 
epileptform activity; there was left temporal slowing. 

Given her clinical improvement, we ultimately feel that her 
presentation in most consistent with transient global amnesia; 
however, given the prolonged nature of her symptoms, she 
underwent a stroke work-up as above. She was continued on 
aspirin. She was transitioned from simvastatin to atorvastatin. 
Initiatilly her metoprolol was halved and chlorthalidone to 
allow for permissive hypertension. She may resume these at home 
doses at discharge. 

Ms. ___ follow up with Dr. ___ in 
Neurology clinic. She will also have a repeat MRI in ___ months 
to evaluate for interval change. 

============================================
Transitional Issues: 
1. MRI Brain in ___ months 
2. Neurology follow with Dr. ___. If you do not hear about an 
appointment in ___ business days, please call ___
3. You will have a Holter monitor set up at 4pm on ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 80 mg PO QPM 
2. Chlorthalidone 25 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Anastrozole 1 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
2.  Anastrozole 1 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Chlorthalidone 25 mg PO DAILY  
5.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Probable transient global amnesia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___, 

You were admitted to the Neurology service for further 
evaluation of an episode of memory loss. You had an MRI of your 
brain which showed two small abnormalities in the areas that 
control memory. These changes in the brain can be seen after 
Transient Global Amnesia (TGA) or after strokes; your symptoms 
lasted longer than a typical episode of TGA, which is why you 
underwent a stroke work-up. TGA causes transient loss of memory 
of recent events and is typically reversible. 

As part of your stroke work-up, we obtained an echocardiogram of 
your heart which showed an increase in size of one chamber. This 
is sometimes seen with heart rhythm problems. You were monitored 
here for rhythm problems, but we did not see any. We will also 
set up a heart monitor for home because these abnormal rhythms 
can come and go and may not be seen with brief monitoring. You 
should continue on daily aspirin.  We also replaced simvastatin 
with atorvastatin which you should continue to take as 
instructed to decrease your risk of strokes. Please continue 
your other home medications as instructed.

We will schedule follow up in Neurology Clinic with Dr. ___ 
___ Dr. ___.  You will also have a repeat MRI in a couple 
of months to assess for interval change. 

Please seek medical attention if you feel your symptoms are 
worsening or you develop new symptoms such as vision changes, 
weakness, numbness, or tingling.  

If any questions arise, please feel free to reach us at 
___.

Have a wonderful day!

___ Neurology 
 
Followup Instructions:
___